US05659065
f1) 4-Methoxy-3-(3-methoxypropoxy)-benzyl alcohol
Potassium carbonate (272.3 g) and 1,3-dibromopropane (1.34 liters) are added to a solution of 3-hydroxy-4-methoxy-benzaldehyde (200 g) in acetonitrile and the white suspension is stirred under reflux for 19 hours. After cooling, the mixture is filtered, the solvent and excess 1,3-dibromopropane are removed under reduced pressure and the residue is purified by FC on silica gel (ethyl acetatelhexane 1:3). The title compound is obtained in the form of a white solid (334 g): Rf (ethyl acetate/hexane 1:1)=0.50. Anal. C11H13BrO3 (273.13): calc. C, 48.37; H, 4.80; Br, 29.26; found C, 48.61; H, 4.84; Br, 29.19.

reactant | Potassium carbonate | 272.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-dibromopropane | 1.34 liters | BrCCCBr | C3H6Br2
reactant | 3-hydroxy-4-methoxy-benzaldehyde | 200 g | OC=1C=C(C=O)C=CC1OC | C8H8O3
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-Methoxy-3-(3-methoxypropoxy)-benzyl alcohol | COC1=C(C=C(CO)C=C1)OCCCOC | C12H18O4
